US04667032
7-Methoxy-2-(4-methylpiperazin-1-yl)-3H-phenothiazine-3-one
A mixture of 7-methoxy-3H-phenothiazin-3-one (1.2 g) and N-methyl piperazine HCl (3.4 g) in DMF (20 ml) was heated at 100° C. for 3 hours. Then NaIO4 (1 g) was added and the reaction mixture was heated at 100° C. for 1 hour. Ice-water was added to the reaction mixture followed by ethyl acetate. The aqueous layer was decanted, filtered and the filtrate basified with K2CO3 and extracted with ethyl acetate. The organic layer was evaporated to dryness, the resulting residue was dissolved in CH2Cl2, dried and evaporated to dryness to afford the crude final product (1.2 g) which was purified by chromatography on silica gel column eluting with 10% MEOH/CH2Cl2 to give the title compound, m.p. 208°-209°.

reactant | 7-methoxy-3H-phenothiazin-3-one | 1.2 g | COC=1C=C2SC3=CC(C=CC3=NC2=CC1)=O | C13H9NO2S
reactant | N-methyl piperazine HCl | 3.4 g | Cl.CN1CCNCC1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 7-Methoxy-2-(4-methylpiperazin-1-yl)-3H-phenothiazine-3-one | COC=1C=C2SC3=CC(C(=CC3=NC2=CC1)N1CCN(CC1)C)=O | C18H19N3O2S
